US04514566
8.3 ml of triethylamine are added dropwise to a suspension of 8.59 g of 5-oxo-2,2,4-trimethyl-3-thiazoline oxime in a solution of 10.0 g of bis-(N-methyl-N-fluorocarbonylamino)sulfide in 100 ml of absolute toluene, cooled to -50° C. The resulting clear solution is allowed to warm slowly to 0° C. during 11/2 hours, during which time a crystalline product is precipitated. The reaction mixture is poured into ice-cold brine and extracted with ethyl acetate. After drying the organic phase over anhydrous sodium sulfate and evaporating it, the resulting residue is purified by chromatography on silica gel (eluent:ethyl acetate/n-hexane 1:1). Crystallization from ethyl acetate/n-hexane yields 5-oxo-2,2,4-trimethyl-3-thiazoline O-[N-(N-methylfluoroformamidothio)-N-methylcarbamoyl]oxime, m.p. 77°-79° C.

reactant | triethylamine | 8.3 ml | C(C)N(CC)CC | C6H15N
reactant | 5-oxo-2,2,4-trimethyl-3-thiazoline oxime | 8.59 g | N(O)=C1C(=NC(S1)(C)C)C | C6H10N2OS
reactant | bis-(N-methyl-N-fluorocarbonylamino)sulfide | 10.0 g | CN(C(=O)F)SN(C(=O)F)C | C4H6F2N2O2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-oxo-2,2,4-trimethyl-3-thiazoline O-[N-(N-methylfluoroformamidothio)-N-methylcarbamoyl]oxime | CN(C(=O)F)SN(C(=O)ON=C1C(=NC(S1)(C)C)C)C | C10H15FN4O3S2
